US07888374B2
4-amino-5-cyano-N-(2,5-dimethoxybenzyl)-6-ethoxypyridine-2-carboxamide
To 4-amino-5-cyano-6-ethoxy-pyridine-2-carboxylic acid (0.1 mmol) in DMF (0.1 mL) was added 2,5-dimethoxybenzylamine (0.2 mmol), Et3N (0.2 mmol), and TBTU (0.1 mmol) sequentially. The reaction mixture was stirred at ambient temperature for 16 hours and water was added. The precipitates were collected and purified by column chromatography to provide the titled compound. 1H NMR (400 MHZ, DMSO-d6) δ 8.81 (t, J=6.4 Hz, 1H), 7.31 (broad s, 2H), 7.07 (s, 1H), 6.92 (d, J=8.8 Hz, 1H), 6.79 (dd, J=2.8, 8.8 Hz, 1H), 6.72 (d, J=3.2 Hz, 1H), 4.49 (q, J=7.2 Hz, 2H), 4.42 (d, J=6.4 Hz, 2H), 3.79 (s, 3H), 3.65 (s, 3H), and 1.33 (t, J=7.2, 3H). MS (m/e) positive mode: 357 (M+H)+, 379 (M+Na)+; negative mode: 355 (M−H)−.

reactant | 4-amino-5-cyano-6-ethoxy-pyridine-2-carboxylic acid | 0.1 mmol | NC1=CC(=NC(=C1C#N)OCC)C(=O)O | C9H9N3O3
reactant | 2,5-dimethoxybenzylamine | 0.2 mmol | COC1=C(CN)C=C(C=C1)OC | C9H13NO2
reactant | Et3N | 0.2 mmol | CCN(CC)CC | C6H15N
reactant | TBTU | 0.1 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-amino-5-cyano-N-(2,5-dimethoxybenzyl)-6-ethoxypyridine-2-carboxamide | NC1=CC(=NC(=C1C#N)OCC)C(=O)NCC1=C(C=CC(=C1)OC)OC | C18H20N4O4
